US05705514
Compound 26, an intermediate in the preparation of compound 1, can be prepared in several steps beginning with 3,5-dichlorobenzyl alcohol. The alcohol is protected as a t-butyldimethylsilyl ether, then treated with n-butyllithium followed by 4-chlorobenzoyl chloride to produce 4-(t-butyldimethylsilyloxymethyl-2,4',6-trichlorobenzophenone. Removal of the silyl protecting group provides compound 26.

reactant | 3,5-dichlorobenzyl alcohol | ClC=1C=C(CO)C=C(C1)Cl | C7H6Cl2O
reactant | t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)O[Si](C)(C)C(C)(C)C | C12H30OSi2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | t-butyldimethylsilyloxymethyl-2,4',6-trichlorobenzophenone | [Si](C)(C)(C(C)(C)C)OCC=1C(=C(C(=O)C2=CC=C(C=C2)Cl)C(=CC1)Cl)Cl | C20H23Cl3O2Si
